US07825155B2
Synthesis of 3-benzoyloxymethyl-2,2-dichlorocyclobutanone
To a suspension of benzoic acid allyl ester (100 g, 0.617 mol) and zinc (activated Zn) (161 g, 2.47 mol) in diethyl ether (1.23 L) was added dropwise a solution of trichloroacetyl chloride (223 g, 1.23 mol) and dimethoxyethane (110 g, 1.23 mol) in diethyl ether (1.23 L, 2 L/mol) over 40 minutes under nitrogen with vigorously stirring, and then the mixture was stirred at room temperature (internal temperature: 30° C.) for 29 hours. During the stirring, additional zinc (activated Zn) (respectively, 150 g (2.29 mol) and 100 g (1.53 mol)) was added at 7 and 24 hours after the beginning of the stirring. To the reaction mixture was added hexane (1 L), and the mixture was stirred for 10 minutes, and then the solid was removed by decantation and the supernatant was washed with water (1 L), aqueous saturated sodium bicarbonate solution (3×1 L) and saturated saline (500 mL), and dried over magnesium sulfate. The mixture was evaporated and the precipitated white solid was collected by filtration and washed with hexane (500 mL) to give the titled compound (62.5 g, 37%).

reactant | benzoic acid allyl ester | 0.617 mol, 100 g | C(C=C)OC(C1=CC=CC=C1)=O | C10H10O2
reactant | trichloroacetyl chloride | 1.23 mol, 223 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | dimethoxyethane | 1.23 mol, 110 g | C(OC)COC | C4H10O2
reactant | hexane | 1 L | CCCCCC | C6H14
solvent | diethyl ether | 1.23 L | C(C)OCC | C4H10O
solvent | diethyl ether | 1.23 L | C(C)OCC | C4H10O
catalyst | zinc | 2.47 mol, 161 g | [Zn] | Zn
product | 3-benzoyloxymethyl-2,2-dichlorocyclobutanone | 62.5 g, 37% | C(C1=CC=CC=C1)(=O)OCC1C(C(C1)=O)(Cl)Cl | C12H10Cl2O3
